US05308857
A suspension of 2-(diaminomethyleneamino)-4-(5-thioureidomethylfuran-2-yl)thiazole (0.70 g) and chloroacetone (0.22 g) in ethanol (15 ml) was refluxed for 4 hours with stirring. The solvent was evaporated in vacuo and the residue was recrystallized from a mixture of methanol and diisopropyl ether to afford 2-(diaminomethyleneamino)-4-[5-(4-methylthiazol-2-yl)aminomethylfuran-2-yl]thiazole (0.66 g).

reactant | 2-(diaminomethyleneamino)-4-(5-thioureidomethylfuran-2-yl)thiazole | 0.70 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=S)N | C10H12N6OS2
reactant | chloroacetone | 0.22 g | ClCC(C)=O | C3H5ClO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-(diaminomethyleneamino)-4-[5-(4-methylthiazol-2-yl)aminomethylfuran-2-yl]thiazole | 0.66 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC=1SC=C(N1)C | C13H14N6OS2
